US05821330
Asp:
1.1 (1), Glx:3.1 (3) Ser:1.0 (1) Gly:3.3 (3), Arg:2.1 (2), Thr:2.2 (2), Pro:1.1 (1), Tyr:1.2 (2), Val:1.7 (2), Cys:-(2), Lys:5.9 (6)

reactant | Gly | NCC(=O)O | C2H5NO2
reactant | Arg | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Thr | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | Tyr | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | Val | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | Cys | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
product | Asp | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
